US05589478
To a solution of N-[6-{2-(5-bromopyrimidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide (300 mg) in tetrahydrofuran (10 ml) is added a 1.6M solution of n-butyl lithium in n-hexane (0.75 ml) at -78° C. The mixture is stirred at -78° C. for 5 minutes, and thereto is added a solution of acetone (58 mg) in tetrahydrofuran (1 ml), and the mixture is warmed to room temperature. The mixture is treated with aqueous ammonium chloride solution, and extracted with ethyl acetate. The ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=2:1~1:1), and recrystallized from ethyl acetate/n-hexane to give 4-tert-butyl-N-[6-{2-(5-(1 -hydroxy- 1 -methylethyl)primidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]benzenesulfonamide (88 mg) as crystals.

reactant | N-[6-{2-(5-bromopyrimidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide | 300 mg | BrC=1C=NC(=NC1)OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C | C27H28BrN5O4S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | acetone | 58 mg | CC(=O)C | C3H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 0.75 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-tert-butyl-N-[6-{2-(5-(1 -hydroxy- 1 -methylethyl)primidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]benzenesulfonamide | 88 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)C(C)(C)O | C30H35N5O5S
